US06818774B2
b) 5-(4-Fluoro-benzyloxy)-indan-1,2-dione 2-oxime
Isoamyl nitrite (4.05 mL, 29.2 mmol) was added to a suspension of 5-(4-fluoro-benzyloxy)-indan-1-one (15 g, 58.5 mmol) in methyl cellulose (210 mL) and HCl (conc) (15.6 mL, 187 mmol) at room temperature. After some minutes (−10) a solid appears and another portion of the isoamyl nitrite (4.05 mL, 29.2 mol) was added. The mixture was stirred for further 30 minutes, poured on ice water and the product was filtrated, washed well with water and diluted EtOH and dried at the pump (15.2 g, 91%). MS: m/e =284.1 (M−H).

reactant | Isoamyl nitrite | 29.2 mmol, 4.05 mL | N(=O)OCCC(C)C | C5H11NO2
reactant | 5-(4-fluoro-benzyloxy)-indan-1-one | 58.5 mmol, 15 g | FC1=CC=C(COC=2C=C3CCC(C3=CC2)=O)C=C1 | C16H13FO2
reactant | HCl | 187 mmol, 15.6 mL | Cl | ClH
reactant | isoamyl nitrite | 29.2 mol, 4.05 mL | N(=O)OCCC(C)C | C5H11NO2
product | 5-(4-Fluoro-benzyloxy)-indan-1,2-dione 2-oxime | FC1=CC=C(COC=2C=C3CC(C(C3=CC2)=O)=NO)C=C1 | C16H12FNO3
